** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/wdpctest.sch
**.subckt wdpctest write_en din precharge VDD
*.ipin write_en
*.ipin din
*.ipin precharge
*.ipin VDD
XM3 net1 din 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM4 net1 din VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM5 net2 net1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM6 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM8 net3 write_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM9 net4 write_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM7 bl net1 net3 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM10 blb net2 net4 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM1 blb precharge VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1
XM2 bl precharge VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1
XM11 blb precharge bl VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1
**** begin user architecture code


*===========================================================
* Testbench for wdpctest
*===========================================================

.lib /home/kaavya/.ciel/ciel/sky130/versions/9233c19260cd813c3fa67dd4594fe4cc67016832/sky130A/libs.tech/ngspice/sky130.lib.spice tt

VDD vdd 0 DC 1.8

* Bitline Loads
*-----------------------------------------------------------

Cbl  bl 0 400f
Cblb blb 0 400f

*-----------------------------------------------------------
* DATA
*-----------------------------------------------------------

Vdin din 0 PWL
+0n      1.8
+20n     1.8
+20.06n  0
+40n     0

*-----------------------------------------------------------
* PRECHARGE (ACTIVE LOW)
*-----------------------------------------------------------

Vpre precharge 0 PWL
+0n       0
+5n       0
+5.06n    1.8

+20n      1.8
+20.06n  0
+25n      0
+25.06n   1.8

+40n      1.8

*-----------------------------------------------------------
* WRITE ENABLE
*-----------------------------------------------------------

Vwe write_en 0 PWL
+0n       0

* Write '1'
+5.20n    0
+5.26n    1.8
+10n      1.8
+10.06n   0

* Write '0'
+25.20n   0
+25.26n   1.8
+30n      1.8
+30.06n   0

+40n      0

*-----------------------------------------------------------
* Simulation
*-----------------------------------------------------------

.tran 0.05p 40n
.temp 27

*-----------------------------------------------------------
* Measurements
*-----------------------------------------------------------

.save v(precharge) v(write_en) v(din) v(bl) v(blb)

.control
run

plot precharge+10 write_en+8 din+6 bl+4 blb+2

.endc






**** end user architecture code
**.ends
.GLOBAL VDD
.end
